US08431563B2
A 250-mL round-bottomed flask was charged with N-(((2S)-1,4-dibenzyl-2-piperazinyl)methyl)aniline (0.734 g, 1.98 mmol), DMAP (0.027 g, 0.22 mmol), triethylamine (0.85 mL, 6.1 mmol) and CH2Cl2 (8 mL). Methanesulfonyl chloride (0.23 mL, 3.0 mmol) was added drop wise at room temperature and the mixture was stirred at room temperature for 2 h. Additional methanesulfonyl chloride (0.20 mL, 2.6 mmol) and triethylamine (1.0 mL, 7.2 mmol) were added. The mixture was stirred at room temperature for another 1.5 h and then the mixture was concentrated to half the original volume and partitioned between water (40 mL) and EtOAc (40 mL). The aqueous phase was extracted with EtOAc (30 mL). The combined organic phases were washed with saturated aqueous NaCl (50 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by column chromatography (25 g of silica gel, 0 to 60% EtOAc in hexanes) to afford N-(((2R)-1,4-dibenzyl-2-piperazinyl)methyl)-N-phenylmethanesulfonamide (0.528 g) as a light yellow solid.

reactant | N-(((2S)-1,4-dibenzyl-2-piperazinyl)methyl)aniline | 1.98 mmol, 0.734 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CNC1=CC=CC=C1 | C25H29N3
reactant | triethylamine | 6.1 mmol, 0.85 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 3.0 mmol, 0.23 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 2.6 mmol, 0.20 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 7.2 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.22 mmol, 0.027 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | N-(((2R)-1,4-dibenzyl-2-piperazinyl)methyl)-N-phenylmethanesulfonamide | 0.528 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CN(S(=O)(=O)C)C1=CC=CC=C1 | C26H31N3O2S
